*
XU1 v+ v- vdd vss out aamu_bjt
V1 vdd 0 5
V2 0 vss 5
R1 v- 0 1k
R2 v+ 0 1k
XU2 0 buf_out vdd vss N002 aamu_bjt
R3 buf_out N001 1k
R4 buf_out N002 10k
V3 N001 0 SINE(0 0.1 1k)
.op
.subckt aamu_bjt V+ V- VDD VSS OUT
.include "/Users/nemo/Desktop/Capstone Project 2025-2026/bjt.lib"
R13 VDD Net-_Q4-E_ 10
Q4 Net-_Q4-E_ /Mirror /Difference BJT2N3906
R12 VDD Net-_Q7-E_ 10
Q6 /Difference V+ Net-_Q6-E_ BJT2N3904
R2 Net-_Q2-E_ VSS 10
R11 Net-_Q1-E_ VSS 10
Q1 Net-_D1-K_ Bias Net-_Q1-E_ BJT2N3904
Q2 Bias Bias Net-_Q2-E_ BJT2N3904
C1 Net-_C1-Pad1_ OUT 0.001u
XRV2 Net-_R9-Pad2_ Net-_Q5-C_ Net-_R8-Pad2_ potentiometer
R9 Net-_Q6-E_ Net-_R9-Pad2_ 100
R5 Net-_Q6-E_ Net-_Q5-C_ 220
XRV3 unconnected-_RV3-Pad1_ Net-_R14-Pad2_ Net-_C1-Pad1_ potentiometer
R7 Net-_Q9-E_ VSS 10
R8 Net-_Q3-E_ Net-_R8-Pad2_ 100
Q9 OUT Bias Net-_Q9-E_ BJT2N3904
R1 /TRIM Bias 680
XRV1 unconnected-_RV1-Pad1_ VDD /TRIM potentiometer
R3 Net-_Q3-E_ Net-_Q5-C_ 220
Q7 Net-_Q7-E_ /Mirror /Mirror BJT2N3906
Q3 /Mirror V- Net-_Q3-E_ BJT2N3904
R4 Net-_Q5-E_ VSS 10
Q5 Net-_Q5-C_ Bias Net-_Q5-E_ BJT2N3904
R14 /Difference Net-_R14-Pad2_ 10
R6 VDD Net-_Q8-E_ 10
C2 VDD VSS 10u
Q8 Net-_Q8-E_ /Difference OUT BJT2N3906
.end
.tran 10m
.backanno
.end
