
*
*  SPICE model for 2N3904/MMBT3904 transistor
*
.MODEL BJT2N3904 NPN(IS=4.639E-15 NF=0.9995 ISE=2.091E-14 NE=1.6 BF=160.1 IKF=0.12
+                 VAF=98.69 NR=1.001 ISC=3.257E-12 NC=1.394 BR=5.944 IKR=0.06
+                 VAR=19.29 RB=1 IRB=1E-6 RBM=1 RE=0.3614 RC=1.755 XTB=0
+                 EG=1.11 XTI=3 CJE=5.631E-12 VJE=0.7002 MJE=0.3385
+                 TF=3.001E-10 XTF=27 VTF=1.461 ITF=0.2723 PTF=0 CJC=4.949E-12
+                 VJC=0.5969 MJC=0.1928 XCJC=0.864 TR=9.4E-8 CJS=0 VJS=0.75
+                 MJS=0.333 FC=0.5582) 


*SRC=2N3906;2N3906;BJTs PNP; Si;  40.0V  0.20A  250MHz   Central Semi Central Semi
.MODEL BJT2N3906  PNP (
+ IS=7.9190E-15
+ BF=196.89
+ VAF=100
+ IKF=.7271
+ ISE=13.654E-15
+ NE=1.4535
+ BR=124.61
+ VAR=100
+ IKR=10.010E-3
+ ISC=18.518E-12
+ NC=1.6031
+ NK=1.1475
+ RB=8.6624
+ RC=.55428
+ CJE=11.640E-12
+ VJE=1.0397
+ MJE=.47196
+ CJC=7.8722E-12
+ VJC=.98301
+ MJC=.53872
+ TF=320.13E-12
+ XTF=29.514
+ VTF=81.870
+ ITF=.12448
+ TR=10.000E-9)


.subckt potentiometer 1 2 3 
R1 1 2 250 
R2 2 3 250
.ends

.subckt MMDT3904 1 2 3 4 5 6
Q1 1 5 6 BJT2N3904
Q2 4 2 3 BJT2N3904
.ends

